Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
bilateral thyroid nodules
 
Major Surgical or Invasive Procedure:
Total thyroidectomy, intraoperative nerve monitoring.

 
History of Present Illness:
The patient is a ___ man who presents with newly 
diagnosed bilateral thyroid nodules and with a more dominant 
nodule measuring approximately 1.1 cm
in the right thyroid lobe and with cytology after 
ultrasound-guided fine-needle aspiration biopsy, initially 
provided evidence of atypia of undetermined significance and on 
a repeat biopsy yielded cytology being suspicious for
papillary thyroid cancer. Different management options have been 
discussed with the patient, and the patient presents today for a 
total thyroidectomy.  Risks and benefits associated with the 
procedure have been discussed in great detail and a consent form 
has been signed.

 
Past Medical History:
Previous Medical History:  Superficial melanoma excised about ___
years ago without evidence of recurrence.  The patient is being
followed for multiple ground-glass lung nodules without present
suspicion of malignancy. Hyperlipidemia. Hypertension. History
of atrial fibrillation and is on beta-blocker for that, but no
anticoagulative treatment.  Mucosa-associated lymphoma in large
bowel, has been managed by excision of polypoid lesions and no
evidence of recurrent disease at this point.

Previous Surgical History:  No previous surgical history.

 
Social History:
___
Family History:
No family history of thyroid cancer.

 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric
NECK: appropriately tender, no swelling, steri-strips C/D/I
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Pertinent Results:
___ 06:24AM BLOOD Calcium-8.3*

 
Brief Hospital Course:
The patient is a ___ man who presents with newly 
diagnosed bilateral thyroid nodules and with a more dominant 
nodule measuring approximately 1.1 cm in the right thyroid lobe 
and with cytology after ultrasound-guided fine-needle aspiration 
biopsy, initially provided evidence of atypia of undetermined 
significance and on a repeat biopsy yielded cytology being 
suspicious for papillary thyroid cancer. The patient presented 
to ___ on ___, and underwent total thyroidectomy. The 
patient tolerated the procedure well without complication; refer 
to operative report dictated separately. postoperatively he was 
transferred to the floor and dmitted overnight for observation.
Postoperatively his diet was advanced and tolerated well. He had 
good pain control on oral pain medication and voided. On POD1 
his surgical dressing was removed and there was no evidence of 
hematoma. Serum calcium level was 8.3. He had no symptoms of 
hypocalcemia. POD#1 ,patient was started on calcium supplement 
and thyroid hormone replacement and discharged home with 
follow-up instructions.
 
Medications on Admission:
atorvastatin 5mg daily
lisinopril 20 mg daily
metoprolol tartrate 25 mg BID
aspirin 81 mg daily

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Calcium Carbonate 1000 mg PO BID  
3.  Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
4.  Atorvastatin 5 mg PO QPM  
5.  Metoprolol Tartrate 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspicion of papillary thyroid cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. You will be discharged home on thyroid hormone 
replacement and calcium supplement, please take as prescribed.

Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth or fingertips. If you experience any of these 
symptoms please call Dr. ___ or go to emergency 
room if you have severe symptoms. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You may take acetaminophen (Tylenol) 
as directed, but do not exceed 4000 mg in one day. Please get 
plenty of rest, continue to walk several times per day, and 
drink adequate amounts of fluids. 

Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own. 

Thank you for allowing us to participate in your care.
Your ___ Care Team

 
 
Followup Instructions:
___